US07601856B2
Following the procedure of Example 1, 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine (0.15 g, 0.69 mmol), 2-furoyl chloride (0.075 mL, 0.76 mmol), and poly(vinylpyridine) (0.5 g) in dichloromethane (12 mL) provided N-(6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-yl)-2-furamide (0.17 g). MS (ESI) m/z 310 ([M+H]+).

reactant | 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine | 0.69 mmol, 0.15 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)N | C14H17NO
reactant | 2-furoyl chloride | 0.76 mmol, 0.075 mL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | N-(6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-yl)-2-furamide | 0.17 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)NC(=O)C=3OC=CC3 | C19H19NO3
